US07786132B2
1-(2-(4-(5-Aminobenzo[b]thiophen-2-yl)pyrimidin-2-ylamino)ethyl)-imidazolidin-2-one
A mixture of 1-(2-(4-(5-nitrobenzo[b]thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one (50 mg) and palladium (10% on activated carbon, 10 mg) in ethanol (10 mL) was stirred under hydrogen (1 atm) for 5 h. The mixture was filtered through Celite and washed with methanol/dichloromethane. The solvent was removed in vacuo and the product was purified by flash chromatography eluting with NH3 in methanol (1 M)/DCM (1:20) to give the title compound as a slightly yellow solid (32 mg, 69%). MS (M+H)+ 355.

reactant | 1-(2-(4-(5-nitrobenzo[b]thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one | 50 mg | [N+](=O)([O-])C1=CC2=C(SC(=C2)C2=NC(=NC=C2)NCCN2C(NCC2)=O)C=C1 | C17H16N6O3S
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium | 10 mg | [Pd] | Pd
product | 1-(2-(4-(5-Aminobenzo[b]thiophen-2-yl)pyrimidin-2-ylamino)ethyl)-imidazolidin-2-one | NC1=CC2=C(SC(=C2)C2=NC(=NC=C2)NCCN2C(NCC2)=O)C=C1 | C17H18N6OS
